US07964608B2
3-(4-Chloro-phenyl)-7-methoxy-1-(4-methyl-cyclohexyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (55 mg) was prepared from 8-methoxy-4-(4-methyl-cyclohexylamino)-quinoline-3-carboxylic acid ethyl ester (0.164 mmol) and 1-chloro-4-isocyanato-benzene (0.25 mmol) following general procedure C. LCMS: m/z 450 [M+1]+.

reactant | 8-methoxy-4-(4-methyl-cyclohexylamino)-quinoline-3-carboxylic acid ethyl ester | 0.164 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCC(CC1)C)OC | C20H26N2O3
reactant | 1-chloro-4-isocyanato-benzene | 0.25 mmol | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | 3-(4-Chloro-phenyl)-7-methoxy-1-(4-methyl-cyclohexyl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 55 mg | ClC1=CC=C(C=C1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCC(CC1)C)=O | C25H24ClN3O3
